US06251913B1
The alkylation step was carried out using 6-bromomethyl-1-methyl-2-oxo-1,2-dihydroquinoline, as in Example 1, and the intermediate was reduced with hydrogen over an Adam's catalyst to give 1,2,3,4-tetrahydroquinoline intermediate which was then deprotected as in Example 13. This provided the title compound as a white solid.

reactant | 6-bromomethyl-1-methyl-2-oxo-1,2-dihydroquinoline | BrCC=1C=C2C=CC(N(C2=CC1)C)=O | C11H10BrNO
reactant | hydrogen | [H][H] | H2
catalyst | Adam's catalyst | O=[Pt]=O
product | 1,2,3,4-tetrahydroquinoline | N1CCCC2=CC=CC=C12 | C9H11N
